US06133266
2-Acetoxymethyl-4-bromoacetylphenyl acetate (18.6 g) was dissolved in 90 ml of methanol, 100 ml of 47% hydrobromic acid was added with stirring under ice-cooling, and the mixture was subjected to 16 hours of reaction at room temperature. Water was added to the reaction solution with stirring under ice-cooling, and the resulting precipitates were collected by filtration and washed with water and hexane to give 9.54 g of 2-bromo-4'-hydroxy-3'-hydroxymethylacetophenone having a melting point of 117 to 119° C.

reactant | 2-Acetoxymethyl-4-bromoacetylphenyl acetate | 18.6 g | C(C)(=O)OC1=C(C=C(C=C1)C(CBr)=O)COC(C)=O | C13H13BrO5
reactant | hydrobromic acid | 100 ml | Br | BrH
reactant | Water | O | H2O
solvent | methanol | 90 ml | CO | CH4O
product | 2-bromo-4'-hydroxy-3'-hydroxymethylacetophenone | 9.54 g | BrCC(=O)C1=CC(=C(C=C1)O)CO | C9H9BrO3
